US07691882B2
2-(2-Fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine
To a mixture of 6-(2-fluoro-phenoxy)-pyridine-3-carbaldehyde (210 mg, 0.97 mmol) described in Manufacturing Example 74-1-2 and acetic acid (3 mL) were added nitromethane (0.39 mL, 7.3 mmol) and ammonium acetate (220 mg, 2.9 mmol), which was stirred for 3 hours at 100° C. The reaction mixture was cooled to room temperature and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and was concentrated under a reduced pressure. A mixture of dimethyl sulfoxide (3 mL) and acetic acid (0.2 mL) was added to the resulting residue, and sodium borohydride (58 mg, 1.5 mmol) was added to the reaction mixture at room temperature while cooling appropriately. The reaction mixture was stirred for 10 minutes. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (150 mg, 61%).

reactant | 6-(2-fluoro-phenoxy)-pyridine-3-carbaldehyde | 0.97 mmol, 210 mg | FC1=C(OC2=CC=C(C=N2)C=O)C=CC=C1 | C12H8FNO2
reactant | nitromethane | 7.3 mmol, 0.39 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 2.9 mmol, 220 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 1.5 mmol, 58 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-(2-Fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine | 150 mg, 61% | FC1=C(OC2=NC=C(C=C2)CC[N+](=O)[O-])C=CC=C1 | C13H11FN2O3
